US07645753B2
4-Chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-benzoic acid
A mixture of 3-amino-4-chloro-5-ethoxy-benzoic acid methyl ester (1.0 g, 4.35 mmol, 1.0 equiv) and divinylsulfone (0.44 mL, 0.51 g, 4.35 mmol, 1.0 equiv) in phosphoric acid 85% (25 mL) was heated to 140° C. overnight. The reaction mixture was poured into water (50 mL) and extracted with dichloromethane (3×50 mL). The combined organic phases were dried over MgSO4, the solvent removed by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with heptane/ethyl acetate (1:1+1% acetic acid) yielding 0.18 g (12%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.51 (t, J=7.0 Hz, 3H), 3.25-3.29 (m, 4H), 3.57-3.60 (m, 4H), 4.19 (q, J=7.0 Hz, 2H), 7.44 (d, J=1.7 Hz, 1H), 7.47 (d, J=1.7 Hz, 1H). MS (ISN): 332.1 [M−H]−.

reactant | 3-amino-4-chloro-5-ethoxy-benzoic acid methyl ester | 4.35 mmol, 1.0 g, 1.0 equiv | COC(C1=CC(=C(C(=C1)OCC)Cl)N)=O | C10H12ClNO3
reactant | divinylsulfone | 4.35 mmol, 0.44 mL, 0.51 g, 1.0 equiv | C(=C)S(=O)(=O)C=C | C4H6O2S
reactant | water | 50 mL | O | H2O
solvent | phosphoric acid | 25 mL | P(O)(O)(O)=O | H3O4P
product | 4-Chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-benzoic acid | 0.18 g, 12% | ClC1=C(C=C(C(=O)O)C=C1OCC)N1CCS(CC1)(=O)=O | C13H16ClNO5S
